US06020329
(a) t-Butyl (6R,7R)-3-[(R)-tetrahydrofuran-2-yl]-7-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetamido]-ceph-3-em-4-carboxylate
Methanesulphonyl chloride (96μl, 1.25mmol) was added to sodium 2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetate (852mg, 1.2mmol) in DMF (2ml) at <-40° C. The mixture was stirred 0.5h at -30±10° C. then t-butyl (6R,7R)-7-amino-3-[(R)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate (326mg, 1mmol) in DMF (2ml), followed by pyridine (101μl, 1.25mmol), were added. The reaction was stirred for 1h without further cooling then diluted with ethyl acetate, washed twice with water and with brine, dried, concentrated in vacuo and flash chromatographed eluting with 25, 30% ethyl acetate in hexane to give the title compound as a colourless foam (665mg, 68%); vmax (CH2Cl2) 3395, 1787, 1722, 1687, 1527, 1449, 1156 and 1051cm-1 ; δH (CDCl3 /CD3OH) 1.55 (9H, s), 1.65-2.25 (4H, m), 3.32 and 3.40 (2H, ABq, J 17.6Hz), 3.8-4.0 (2H, m), 5.08 (1H, d, J 4.8Hz), 5.13 (1H, dd, J 7.0, 8.1Hz), 5.91 (1H, d, J 4.5Hz), 6.56 (1H, s), 7.2-7.5 (30H, m). [Mass spectrum: +ve ion (3-nitrobenzyl alcohol, sodium acetate) MNa+ (1002)].

reactant | Methanesulphonyl chloride | 1.25mmol, 96μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium 2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetate | 1.2mmol, 852mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)[O-])=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | t-butyl (6R,7R)-7-amino-3-[(R)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 1mmol, 326mg | N[C@H]1[C@@H]2N(C(=C(CS2)[C@@H]2OCCC2)C(=O)OC(C)(C)C)C1=O | C15H22N2O4S
reactant | pyridine | 1.25mmol, 101μl | N1=CC=CC=C1 | C5H5N
solvent | DMF | 2ml | CN(C)C=O | C3H7NO
solvent | DMF | 2ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-Butyl (6R,7R)-3-[(R)-tetrahydrofuran-2-yl]-7-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-trityloxyiminoacetamido]-ceph-3-em-4-carboxylate | 665mg, 68% | O1[C@H](CCC1)C=1CS[C@H]2N(C1C(=O)OC(C)(C)C)C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C58H53N5O6S2
